US08232403B2
To a stirred solution of (S)-(+)-phenylglycinol (6.85 g, 50 mmol) in toluene (150 mL) is added trans-4-[4-(benzyloxymethyl)cyclohexyl]-4-oxobutyric acid (15.2 g, 50 mmol), and the resulting mixture is heated to reflux for 4 hours with continuous water removal by using Dean-stark apparatus. The resulting mixture is concentrated, and the resulting residue is purified by silica gel column chromatography to afford trans-(3S,7aS)-7a-[4-(benzyloxymethyl)cyclohexyl]-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5-one.

reactant | (S)-(+)-phenylglycinol | 50 mmol, 6.85 g | C1=CC=C(C=C1)[C@@H](CO)N | C8H11NO
reactant | trans-4-[4-(benzyloxymethyl)cyclohexyl]-4-oxobutyric acid | 50 mmol, 15.2 g | C(C1=CC=CC=C1)OC[C@@H]1CC[C@H](CC1)C(CCC(=O)O)=O | C18H24O4
reactant | water | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | trans-(3S,7aS)-7a-[4-(benzyloxymethyl)cyclohexyl]-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5-one | C(C1=CC=CC=C1)OC[C@@H]1CC[C@H](CC1)[C@]12OC[C@@H](N1C(CC2)=O)C2=CC=CC=C2 | C26H31NO3
